US07851465B2
(Z)-7-Chloro-5-(4-(4-methoxybenzyloxy)phenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one.
(E)-5,7-Dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one (5.00 g, 20.57 mmol), cesium hydroxide (6.91 g, 41.1 mmol), and 2-(4-(4-methoxybenzyloxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (9.10 g, 26.7 mmol) were dissolved in dioxane/water (100 mL/30 mL), and the mixture was subjected to vacuum followed by nitrogen gas. The de-gassing was repeated twice, and then tetrakis(triphenylphosphine)palladium (0) (475 mg, 0.41 mmol) was added. The reaction was then heated to 90° C. for 18 hours, and then cooled to room temperature. The crude mixture was diluted with ethyl acetate, and the organic solution was washed with water, then brine, and then dried over sodium sulfate, and concentrated. The crude product was vacuum pulled through a silica plug eluting with 6:4 ethyl acetate:hexanes. The filtrate was concentrated and then washed with methyl-tert-butyl ether. The product was collected as a light yellow solid by filtration (5.13 g, 59%). 1HNMR (300 MHz, CDCl3) δ 3.36 (s, 3H), 3.73 (d, 1H), 3.81 (s, 3H), 4.77 (d, 1H), 5.03 (s, 2H), 6.91 (d, 2H), 6.98 (d, 2H), 7.27 (d, 1H), 7.32 (d, 1H), 7.36 (d, 2H), 7.49 (dd, 1H), 7.55 (d, 2H).

reactant | (E)-5,7-Dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 20.57 mmol, 5.00 g | Cl/C=1/C2=C(N(C(C\N1)=O)C)C=CC(=C2)Cl | C10H8Cl2N2O
reactant | cesium hydroxide | 41.1 mmol, 6.91 g | [OH-].[Cs+]
reactant | 2-(4-(4-methoxybenzyloxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 26.7 mmol, 9.10 g | COC1=CC=C(COC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C20H25BO4
solvent | dioxane water | 100 mL | O1CCOCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.41 mmol, 475 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (Z)-7-Chloro-5-(4-(4-methoxybenzyloxy)phenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | ClC1=CC\2=C(N(C(C\N=C2\C2=CC=C(C=C2)OCC2=CC=C(C=C2)OC)=O)C)C=C1 | C24H21ClN2O3
